US07384934B2
(S)-2-[4-(6,7-Difluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-1-methyl-piperazin-2-yl]-ethanol dihydrochloride
Dissolve (S)-2-[4-(6,7-difluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-1-methyl-piperazin-2-yl]-ethanol (171 mg, 0.44 mmol) in ethyl acetate. Add 3 equivlents of hydrogen chloride in ethanol. After 18 hours filter the precipitate under a nitrogen atmosphere, wash with ethyl acetate and dry under vacuum to give the title compound (198 mg, 98%): Mass Spectrum (LCMS) 393 (M+1); 391 (M−1).

reactant | (S)-2-[4-(6,7-difluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-1-methyl-piperazin-2-yl]-ethanol | 0.44 mmol, 171 mg | FC=1C(=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](N(CC2)C)CCO)C)C1)F | C19H22F2N4OS
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | (S)-2-[4-(6,7-Difluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-yl)-1-methyl-piperazin-2-yl]-ethanol dihydrochloride | 198 mg, 98% | Cl.Cl.FC=1C(=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](N(CC2)C)CCO)C)C1)F | InChI=1S/C19H22F2N4OS.2ClH/c1-11-7-13-18(25-5-4-24(2)12(10-25)3-6-26)22-16-8-14(20)15(21)9-17(16)23-19(13)27-11;;/h7-9,12,23,26H,3-6,10H2,1-2H3;2*1H/t12-;;/m0../s1
